US04234744
The reaction of 10.45 grams of 6-bromohexanoic acid methyl ester with 6.08 grams of potassium cyanate and 2.7 grams of methanol in 50 ml DMF following the procedure of Example 1 gave 7.82 grams (76.9%) of 6-methoxycarbonylaminohexanoic acid methyl ester having a boiling point of 104° C./0.0013 mbar.

reactant | 6-bromohexanoic acid methyl ester | 10.45 grams | COC(CCCCCBr)=O | C7H13BrO2
reactant | potassium cyanate | 6.08 grams | [O-]C#N.[K+]
reactant | methanol | 2.7 grams | CO | CH4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-methoxycarbonylaminohexanoic acid methyl ester | 7.82 grams, 76.9% | COC(CCCCCNC(=O)OC)=O | C9H17NO4
